US06953806B2
To a solution of 150 mg (0.642 mmol) trans-3-[4-(2-methylamino-ethyl)-cyclohexyl]-(E)-prop-2-en-1-ol HCl-salt and 125 mg (0.654 mmol) 4-chlorophenyl chloroformate in 1.5 ml of dichloromethane was added at room temperature 0.55 ml (3.21 mmol) diisopropyl ethyl amine. The reaction mixture was stirred for 1 hour at room temperature, taken up in ether and washed with 1N hydrogen chloride solution and water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure and the residue then chromatographed on silica gel with a 2:1 v/v mixture of hexane and ethylacetate as the eluent giving 146 mg (64.7%) trans-{2-[4-(3-hydroxy-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester, MS: 369 (MNH4+, 1Cl).

reactant | trans-3-[4-(2-methylamino-ethyl)-cyclohexyl]-(E)-prop-2-en-1-ol HCl-salt | 0.642 mmol, 150 mg | Cl.CNCC[C@@H]1CC[C@H](CC1)/C=C/CO
reactant | 4-chlorophenyl chloroformate | 0.654 mmol, 125 mg | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | diisopropyl ethyl amine | 3.21 mmol, 0.55 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | trans-{2-[4-(3-hydroxy-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester | 146 mg, 64.7% | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CO)=O | C19H26ClNO3
